data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1335,1464,[CH3:17][C:18](=[O:19])[c-:20]1[o+:21][c:22]([CH3:23])[o:24][c:25]1=[O:26].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:20]1([C:18]([CH3:17])=[O:19])[O:21][C:22]2([CH3:23])[O:24][C:25]1=[O:26],water,298.15,19.452294534680764,-25.26035016758805
2273,2518,[CH3:20][C:21]([C:22]#[N:23])=[O+:24][N-:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[N:1]#[C:2][C:3]1([Cl:4])[C:5]#[C:6][C:7]([C:8]([F:9])([F:10])[F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1>>[N:1]#[C:2][C:3]1([Cl:4])[C:5]2=[C:6]([C:7]([C:8]([F:9])([F:10])[F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:21]([CH3:20])([C:22]#[N:23])[O:24][N:25]2[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,23.16372967801882,-43.15262114793136
3845,4401,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:15]([CH3:16])=[O:17])([C:18]([CH3:19])=[O:20])[N:12]([CH3:13])[CH2:11]2,water,298.15,30.44183588132407,1.2763772771714
2870,3189,[CH3:25][NH:26][C:27](=[O:28])[C:29]([C:30]#[N:31])=[O+:32][C-:33]([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1.[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([C:13]([F:14])([F:15])[F:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([C:13]([F:14])([F:15])[F:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:33]([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)([c:40]1[cH:41][cH:42][cH:43][cH:44][cH:45]1)[O:32][C:29]2([C:27]([NH:26][CH3:25])=[O:28])[C:30]#[N:31],water,298.15,16.941881450289102,-32.03560604011953
3407,3874,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]#[N+:10][C-:11]([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:11]([CH3:12])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:10]=[C:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,20.44865511703978,-36.89380473222528
1181,1283,[CH3:14][NH:15][C:16](=[O:17])[C-:18]([CH3:19])[O+:20]=[C:21]([CH3:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:21]([CH3:22])([C:23]([CH3:24])=[O:25])[O:20][C:18]3([C:16]([NH:15][CH3:14])=[O:17])[CH3:19],water,298.15,9.410343292172607,-65.24767425053878
2751,3057,[CH3:18][O:19][C:20](=[O:21])[C:22]([C:23]([CH3:24])=[O:25])=[N+:26]([CH3:27])[C-:28]([CH3:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23]([CH3:24])=[O:25])[N:26]([CH3:27])[C:28]2([CH3:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,41.02750305514658,-20.813657579516093
1136,1235,[CH3:10][C:11](=[O:12])[C-:13]([O+:14]=[C:15]([CH3:16])[C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:13]([C:11]([CH3:10])=[O:12])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[O:14][C:15]2([CH3:16])[C:17]#[N:18],water,298.15,13.20367733622586,-38.17721395087481
3152,3555,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH:11]=[NH+:12][C-:13]([CH3:14])[CH3:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([CH3:14])([CH3:15])[NH:12][CH:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,11.48823769716259,-25.04983534616956
1080,1177,[CH3:18][CH-:19][NH+:20]=[C:21]([CH3:22])[CH3:23].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:21]([CH3:22])([CH3:23])[NH:20][CH:19]2[CH3:18],water,298.15,12.90748137341026,-55.01670378143342
938,1018,[CH3:10][O:11][C:12](=[O:13])[CH-:14][NH+:15]=[C:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[CH:14]([C:12]([O:11][CH3:10])=[O:13])[NH:15][C:16]2([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22],water,298.15,24.67973091115973,-19.84087525085468
